US06818772B2
cis-N-{4-((7-chloroquinolin-4-yl)amino)cyclohexyl}-5-phenylpentanamide
31 mg (0.16 mmol) of 5-phenylvaleric acid, 112 mg (0.22 mmol) of PS-carbodiimide and 28 mg (0.18 mmol) HOBT in DMF (1 mL) were mixed for 15 min. 30 mg (0.11 mmol) of N-(7-chloroquinolin-4-yl)-cyclohexane-1,4-diamine was added and the reaction was allowed to proceed overnight. 116 mg (0.54 mmol) of PS-trisamine was added and the reaction mixture was filtered after two hours. The solvent was evaporated and the product was purified by reverse phase HPLC to provide the titled compound. MS (ESI(+)) m/e 436 (M+H)+; 1H NMR (500 MHz, DMSO) δ ppm 13.86 (brs, 1 H), 8.82 (d, 1 H), 8.72 (d, 1 H), 8.54 (d, 1 H), 7.94 (d, 1 H), 7.78 (dd, 1 H), 7.69 (d, 1 H), 7.21 (m, 5 H), 6.96 (d, 1 H), 3.89 (m, 1 H), 3.80 (m, 1 H), 2.58 (m, 2 H), 2.50 (m, 2 H), 2.16 (m, 2 H), 1.82 (m, 6 H), 1.47-1.70 (m, 6 H).

reactant | 5-phenylvaleric acid | 0.16 mmol, 31 mg | C1(=CC=CC=C1)CCCCC(=O)O | C11H14O2
reactant | carbodiimide | N=C=N | CH2N2
reactant | HOBT | 0.18 mmol, 28 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-(7-chloroquinolin-4-yl)-cyclohexane-1,4-diamine | 0.11 mmol, 30 mg | ClC1=CC=C2C(=CC=NC2=C1)NC1CCC(CC1)N | C15H18ClN3
reactant | trisamine | C(C(CO)(CO)N)O | C4H11NO3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | cis-N-{4-((7-chloroquinolin-4-yl)amino)cyclohexyl}-5-phenylpentanamide | ClC1=CC=C2C(=CC=NC2=C1)N[C@H]1CC[C@H](CC1)NC(CCCCC1=CC=CC=C1)=O | C26H30ClN3O
